US06521643B1
To a suspension of hydroxylamine hydrochloride (146 mg) and sodium acetate (172 mg) in 2-propanol (4 ml) was added N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-S-ethylisothiourea (205 mg), and the mixture was stirred at 90° C. for 1 hour. The mixture was diluted with ethyl acetate and washed with water and brine. The organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel, 3 to 4% methanol in dichloromethane) to give N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-N′-hydroxyguanidine (81 mg).

reactant | hydroxylamine hydrochloride | 146 mg | Cl.NO
reactant | sodium acetate | 172 mg | C(C)(=O)[O-].[Na+]
reactant | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-S-ethylisothiourea | 205 mg | CC=1N=C(SC1C1=NC=CC(=C1)C)NC(SCC)=N | C13H16N4S2
solvent | 2-propanol | 4 ml | CC(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-N′-hydroxyguanidine | 81 mg | CC=1N=C(SC1C1=NC=CC(=C1)C)NC(=N)NO | C11H13N5OS
